US06297269B1
(2R,3R)-3-Amino-2-hydroxy-4-phenylbutyric acid methyl ester Hydrochloride
A mixture of (2R,3R)-3-amino-2-hydroxy-4-phenylbutyric acid (200 mg, 1.0 mmol, Sigma Chemical Co. (St. Louis, Mo.), chlorotrimethylsilane (500 mg, 4.6 mmol) and methanol (2 mL) was heated at reflux for 5.5 hours and concentrated to a foam: Yield 244 mg, 100%.

reactant | (2R,3R)-3-amino-2-hydroxy-4-phenylbutyric acid | N[C@@H]([C@H](C(=O)O)O)CC1=CC=CC=C1 | C10H13NO3
reactant | chlorotrimethylsilane | 4.6 mmol, 500 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | methanol | 2 mL | CO | CH4O
product | (2R,3R)-3-Amino-2-hydroxy-4-phenylbutyric acid methyl ester Hydrochloride | Cl.COC([C@@H]([C@@H](CC1=CC=CC=C1)N)O)=O | InChI=1S/C11H15NO3.ClH/c1-15-11(14)10(13)9(12)7-8-5-3-2-4-6-8;/h2-6,9-10,13H,7,12H2,1H3;1H/t9-,10-;/m1./s1
